US04990508
In 500 ml of N,N-dimethylformamide was suspended 10.2 g of 60% sodium hydride. Thereinto was dropped 55.0 g of di-tert-butyl malonate in 1 hour with ice-cooling. The resulting mixture was stirred for 10 minutes at the same temperature. Thereto was added 48.0 g of methyl pentafluorbenzoate. The resulting mixture was stirred for 2 hours at room temperature. The reaction mixture was added to a mixture of 1 liter of water and 400 ml of ethyl acetate. The resulting mixture was adjusted to pH 3 with 6N hydrochloric acid. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue obtained was dissolved in 150 ml of trifluoroacetic acid. The resulting solution was stirred at room temperature for 20 hours. The reaction mixture was concentrated under reduced pressure. To the residue obtained were added 200 ml of diethyl ether and 600 ml of water in this order. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. To the residue obtained was added 50 ml of toluene. The resulting mixture was refluxed for 1.5 hours. The reaction mixture was concentrated under reduced pressure, and n-hexane was added to the residue obtained. The resulting crystals were collected by filtration to obtain 31.3 g (yield: 55.5%) of methyl 4-carboxymethyl-2,3,5,6-tetrafluorobenzoate.

reactant | sodium hydride | 10.2 g | [H-].[Na+]
reactant | di-tert-butyl malonate | 55.0 g | C(CC(=O)OC(C)(C)C)(=O)OC(C)(C)C | C11H20O4
reactant | methyl pentafluorbenzoate | 48.0 g | FC1=C(C(=C(C(=C1C(=O)OC)F)F)F)F | C8H3F5O2
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | N,N-dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
solvent | trifluoroacetic acid | 150 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 600 ml | O | H2O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 1 liter | O | H2O
product | methyl 4-carboxymethyl-2,3,5,6-tetrafluorobenzoate | 31.3 g, yield: 55.5% | C(=O)(O)CC1=C(C(=C(C(=O)OC)C(=C1F)F)F)F | C10H6F4O4
